US04189436
Preparation of β-amino-3-thiopheneacrylonitrile
A 500 ml. three necked flask is equipped with a mechanical stirrer, gas inlet, dry ice condenser, potassium hydroxide drying tube, and addition funnel. A 100 ml. portion of ammonia is condensed into the flask and a pellet of sodium is added. When the dark blue color persists, ferric chloride is added discharging the color to brown. A 3.2 g. portion of sodium is added and the mixture is allowed to stand for 45 minutes. A 5.7 ml. portion of acetonitrile in 10 ml. of tetrahydrofuran is added and the reaction is stirred for 20 minutes. The reaction is cooled in a dry ice-acetone bath and 10.9 g. of 3-thiophenecarbonitrile in 25 ml. of tetrahydrofuran is added. The reaction is stirred in the cold bath for 90 minutes, then at reflux for 3 hours. A 7.4 g. portion of ammonium chloride is added and the mixture is allowed to evaporate overnight. A 100 ml. portion of water and 100 ml. of chloroform are added and the mixture is filtered. The aqueous phase is extracted with chloroform, the combined organic solution is washed once with water, dried over magnesium sulfate and filtered through Magnesol®. The filtrate is evaporated in vacuo to an orange oil. A 30 ml. portion of benzene is added and then petroleum ether until the mixture is cloudy. Cooling produces a precipitate which is collected and recrystallized from benzene giving the desired product as a solid, m.p. 67°-69.5° C.

reactant | ammonia | N | H3N
reactant | sodium | [Na] | Na
reactant | 3-thiophenecarbonitrile | S1C=C(C=C1)C#N | C5H3NS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
product | β-amino-3-thiopheneacrylonitrile | NC(=CC#N)C1=CSC=C1 | C7H6N2S
